US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (198 mg, 1.03 mmol) (described in a previous experimental) and 2-bromoaniline (1.00 mL, 9.18 mmol) is stirred under N2 at 180° C. for 2.5 h, and the resulting product is chromatographed on alumina (1% EtOR/CHCl3) to give 7-amino-4-(2-bromoanilino)pyrido[4,3-d]pyrimidine (108 mg, 33%) as a pale yellow solid, 1H NMR (DMSO) δ 9.91 (1H, brs), 9.27 (1H, s), 8.20 (1H, s), 7.73 (1H, d, J=7.9 Hz), 7.50 (1H, m), 7.44 (1H, t, J=6.9 Hz), 7.25 (1H, m), 6.59 (2H, brs), 6.42 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.03 mmol, 198 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 2-bromoaniline | 9.18 mmol, 1.00 mL | BrC1=C(N)C=CC=C1 | C6H6BrN
product | 7-amino-4-(2-bromoanilino)pyrido[4,3-d]pyrimidine | 108 mg, 33% | NC1=CC=2N=CN=C(C2C=N1)NC1=C(C=CC=C1)Br | C13H10BrN5
